US07696347B2
Biphenyl-4-yl-methanol
To a mixture of 4-chlorobiphenyl (23 mg, 0.12 mmol), 1,4-dioxane (2 ml) and water (200 μl) were added potassium acetoxymethyl trifluoroborate (44 mg, 0.24 mmol), palladium (II) acetate (14 mg, 0.061 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (50 mg, 0.12 mmol), and potassium phosphate (170 mg, 0.73 mmol) at room temperature. The reaction mixture was heated to reflux overnight under the nitrogen atmosphere. After the reaction mixture was cooled at room temperature, water and ethyl acetate were added to the mixture. After the organic layer was washed with an aqueous saturated sodium chloride solution, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (18 mg, 0.098 mmol, 80%).

reactant | 4-chlorobiphenyl | 0.12 mmol, 23 mg | ClC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Cl
reactant | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.12 mmol, 50 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium phosphate | 0.73 mmol, 170 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium (II) acetate | 0.061 mmol, 14 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 200 μl | O | H2O
product | Biphenyl-4-yl-methanol | 0.098 mmol, 18 mg, 80% | C1(=CC=C(C=C1)CO)C1=CC=CC=C1 | C13H12O
